US06930107B2
2-[4-(3-Bromo-4-hydroxy-phenoxy)-3,5-dimethyl-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carboxylic acid
To a solution (40 ml) of 2-[4-(3-bromo-4-methoxy-phenoxy)-3,5-dimethyl-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carboxylic acid (800 mg) in methylene chloride (40 ml) was added boron tribromide (5.2 ml of a 1.0 M solution). After stirring for 18 h, the reaction mixture was poured over ice and stirred at room temperature for 3 h. The reaction was extracted three times with 1N potassium hydroxide, and the aqueous layers were combined, acidified to pH 2 with hydrochloric acid, and extracted three times with ethyl acetate. The organic phases were combined, washed with brine, dried and concentrated to give fluffy yellow solid (408 mg) of the title compound. MS Calc.447; Found: 446 (M−1).

reactant | 2-[4-(3-bromo-4-methoxy-phenoxy)-3,5-dimethyl-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carboxylic acid | 40 ml, 800 mg | BrC=1C=C(OC2=C(C=C(C=C2C)N2N=C(C(NC2=O)=O)C(=O)O)C)C=CC1OC | C19H16BrN3O6
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 2-[4-(3-Bromo-4-hydroxy-phenoxy)-3,5-dimethyl-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carboxylic acid | 408 mg | BrC=1C=C(OC2=C(C=C(C=C2C)N2N=C(C(NC2=O)=O)C(=O)O)C)C=CC1O | C18H14BrN3O6
